US09080011B2
(E)3-(4-acetoxy-3-methoxyphenyl)acrylic acid (acetylferulic acid)
In a round bottomed flask, 30.04 g of vanillin (0.197 mol) and 26.0 g of sodium acetate (0.317 mol) were dissolved in 200 mL of acetic anhydride (2.12 mol). About 1 mL of pyridine was added to the flask and the mixture was heated to reflux. After 24 h, the brown solution was poured over about 500 g of crushed ice and the solution was stirred until the appearance of a yellow-brown solid. The flask was left overnight in the freezer and a dark yellow solid was obtained by filtration. The crude solid was recrystallized from acetic acid/water to give 32.3 g of a yellow beige solid in a 69% yield.

reactant | vanillin | 0.197 mol, 30.04 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | sodium acetate | 0.317 mol, 26.0 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 2.12 mol, 200 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | (E)3-(4-acetoxy-3-methoxyphenyl)acrylic acid | 32.3 g, 69% yield | C(C)(=O)OC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C12H12O5
